US08110581B2
N-(3-Methyl-4-{1-oxo-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]dec-2-yl}phenyl)acetamide
To a solution of 2-(4-bromo-2-methylphenyl)-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one (38.1 mg, 0.0000814 mol), in 1,4-dioxane (0.5 mL, 0.006 mol) was added (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine (2.3 mg, 0.000016 mol), copper(I) iodide (1.6 mg, 0.0000081 mol), acetamide (9.6 mg, 0.00016 mol), and potassium carbonate (23.6 mg, 0.000171 mol) and the mixture was stirred at 100° C. overnight. The product was purified by prep-HPLC. LC-MS: 447.2 (M+H)+.

reactant | 2-(4-bromo-2-methylphenyl)-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one | 0.0000814 mol, 38.1 mg | BrC1=CC(=C(C=C1)N1C(C2(CC1)CN(CCC2)C2=NC=C(C=C2)C(F)(F)F)=O)C | C21H21BrF3N3O
reactant | 1,4-dioxane | 0.006 mol, 0.5 mL | O1CCOCC1 | C4H8O2
reactant | (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine | 0.000016 mol, 2.3 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | acetamide | 0.00016 mol, 9.6 mg | C(C)(=O)N | C2H5NO
reactant | potassium carbonate | 0.000171 mol, 23.6 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.0000081 mol, 1.6 mg | [Cu]I
product | N-(3-Methyl-4-{1-oxo-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]dec-2-yl}phenyl)acetamide | CC=1C=C(C=CC1N1C(C2(CC1)CN(CCC2)C2=NC=C(C=C2)C(F)(F)F)=O)NC(C)=O | C23H25F3N4O2
